US07943622B2
Step 2. Synthesis of 2-(2-(Pyridin-3-yl)ethyl)-N-p-tolylpiperazine-1-carboxamide dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to tert-butyl 3-(2-(pyridin-3-yl)ethyl)-4-(p-tolylcarbamoyl)piperazine-1-carboxylate TFA salt (133.9 mg, 0.248 mmol). After 1 h, the reaction mixture was concentrated under reduced pressure, yielding 89.3 mg (90%) of the desired product as a white solid. LC-MS: RT=3.16 min, [M+H]+=325.2.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 3-(2-(pyridin-3-yl)ethyl)-4-(p-tolylcarbamoyl)piperazine-1-carboxylate TFA salt | 0.248 mmol, 133.9 mg | OC(=O)C(F)(F)F.N1=CC(=CC=C1)CCC1CN(CCN1C(NC1=CC=C(C=C1)C)=O)C(=O)OC(C)(C)C
product | 2-(2-(Pyridin-3-yl)ethyl)-N-p-tolylpiperazine-1-carboxamide dihydrochloride | 89.3 mg, 90% | Cl.Cl.N1=CC(=CC=C1)CCC1N(CCNC1)C(=O)NC1=CC=C(C=C1)C | InChI=1S/C19H24N4O.2ClH/c1-15-4-7-17(8-5-15)22-19(24)23-12-11-21-14-18(23)9-6-16-3-2-10-20-13-16;;/h2-5,7-8,10,13,18,21H,6,9,11-12,14H2,1H3,(H,22,24);2*1H
